US05786374
A mixture of 1.4 g of 1-(1,2-benzisoxazol-3-yl)ethanone, 0.7 g of hydroxylamine hydrochloride and 10 ml of pyridine is refluxed for 1 h. The reaction mixture is then poured onto a mixture of ice/water and the precipitated product is isolated by filtration. The product is dissolved in ethyl acetate, the solution is washed once with water, then twice with a saturated solution of sodium chloride and finally dried over sodium sulfate. The solvent is stripped off under vacuum, to give pure 1-(1,2-benzisoxazol-3-yl)ethanone oxime having a melting point of 193°-195° C.

reactant | 1-(1,2-benzisoxazol-3-yl)ethanone | 1.4 g | O1N=C(C2=C1C=CC=C2)C(C)=O | C9H7NO2
reactant | hydroxylamine hydrochloride | 0.7 g | Cl.NO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1,2-benzisoxazol-3-yl)ethanone oxime | O1N=C(C2=C1C=CC=C2)C(C)=NO | C9H8N2O2
